US03948937
To a slurry of 31.6 g of the disodium salt of 2-benzoylacetyl-1-cyclohexenecarboxylic acid in 150 ml of methanol is added 12 g of concentrated hydrochloric acid, followed by 12 g of hydrazine hydrate. The reaction mixture is refluxed for 2 hours, cooled to 5°, acidified to pH 3, and diluted with 150 ml of water. The solid is collected and recrystallized from acetic acid-water to give 11.4 g of 3-(2-carboxy-1-cyclohexen-1-yl)-5-phenylpyrazole, m.p. 207°-209°.

reactant | disodium | 31.6 g | [Na][Na] | 2Na
reactant | 2-benzoylacetyl-1-cyclohexenecarboxylic acid | C(C1=CC=CC=C1)(=O)CC(=O)C1=C(CCCC1)C(=O)O | C16H16O4
reactant | hydrochloric acid | 12 g | Cl | ClH
reactant | hydrazine hydrate | 12 g | O.NN
solvent | methanol | 150 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
product | 3-(2-carboxy-1-cyclohexen-1-yl)-5-phenylpyrazole | 11.4 g | C(=O)(O)C1=C(CCCC1)C1=NNC(=C1)C1=CC=CC=C1 | C16H16N2O2
